US06441052B1
A solution of ethyl 5-cyclopentyl-3-methylpent-4-enoate (16.8 g; 80 mmol; obtained according to Streinz, L., Romanuk, M., Sorm, F., Sehnal, F. DE 2 444 837, priority Sep. 20, 1973) in diethyl ether (30 ml) was added dropwise to a suspension of lithium aluminum hydride (3.0 g; 80 mmol) in the same solvent (110 ml), and the reaction mixture was stirred at reflux for 1 hour. Water (3.5 ml), then 15% NaOH solution, and again water (3.5 ml) were added, the precipitate filtered off and washed with MTBE (30 ml). The combined organic phases were washed with 1 NHCl (200 ml) and brine (3×100 ml), dried (MgSO4), concentrated in vacuo, and distilled (79-82° C./0.07 torr) to give 7.8 g (59% yield) of 5-cyclopentyl-3-methylpent-4-en-1-ol.

reactant | ethyl 5-cyclopentyl-3-methylpent-4-enoate | C1(CCCC1)C=CC(CC(=O)OCC)C | C13H22O2
reactant | lithium aluminum hydride | 80 mmol, 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 3.5 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | water | 3.5 ml | O | H2O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 5-cyclopentyl-3-methylpent-4-en-1-ol | 7.8 g, 59% yield | C1(CCCC1)C=CC(CCO)C | C11H20O
